US06521666B1
A solution of N-(2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine (0.17 g), HOBT (0.0.08 g), DIEA (0.19 mL) and 2-cyanoethylamine (0.03 mL) in DMF (5 mL) was stirred at room temperature under N2. EDC (0.14 g) was added after 10 min and the mixture was stirred at room temperature under N2. The mixture was diluted with water and extracted with EtOAc. The extract was washed successively with water, 1 N HCl, satd. NaHCO3 and brine, dried and evaporated to give 0.17 g of N-(2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine N-(2-cyanoethyl) amide. ESMS : m/z 526 (MH+).

reactant | N-(2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine | 0.17 g | ClC1=C(C(=O)N[C@@H](CC2=CC=C(C=C2)C2=C(C=CC=C2OC)OC)C(=O)O)C(=CC=C1)Cl | C24H21Cl2NO5
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.19 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-cyanoethylamine | 0.03 mL | C(#N)CCN | C3H6N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EDC | 0.14 g
product | N-(2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine N-(2-cyanoethyl) amide | 0.17 g | C(#N)CCNC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1OC)OC)=O | C27H25Cl2N3O4
